US08580794B2
tert-butyl 4-nitrosopiperazine-1-carboxylate
In a 500 mL round-bottomed flask, 6N aqueous HCl (30 mL) was cooled to −10° C., and tert-butyl piperazine-1-carboxylate (10 g) was added. Sodium nitrite (4.5 g) dissolved in 35 ml water was added slowly. NaOH (10 g in 20 mL water) was used to neutralize the solution. Dichloromethane (3×50 mL) was used to extract the product. After drying over Na2SO4 and filtration, the solution was concentrated. The crude product was added to a silica gel column (Analogix, SF65-400 g) and purified by eluting with 0-30% ethyl acetate in hexane.

reactant | HCl | 6N, 30 mL | Cl | ClH
reactant | tert-butyl piperazine-1-carboxylate | 10 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | Sodium nitrite | 4.5 g | N(=O)[O-].[Na+]
reactant | NaOH | 20 mL, 10 g | [OH-].[Na+]
solvent | water | 35 ml | O | H2O
solvent | Dichloromethane | 50 mL | ClCCl | CH2Cl2
product | tert-butyl 4-nitrosopiperazine-1-carboxylate | N(=O)N1CCN(CC1)C(=O)OC(C)(C)C | C9H17N3O3
